US08183380B2
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-(tetrahydro-pyran-4-yl)-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 4-aminotetrahydropyran and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=403.5 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-(tetrahydro-pyran-4-yl)-urea | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCOCC1 | C24H26N4O2
